US04808595
2-Sulfamoyl-4-chloro-furo[3,2-c]pyridine
To a solution of 4-chloro-furo[3,2-c]pyridine (6.17 g, 40.2 mmol) in tetrahydrofuran (80 ml), under a nitrogen atmosphere at -70° C., was added dropwise a solution of 0.7M lithium diisopropylamide in THF (64 ml, 44.8 mmol). After stirring for 1/2 hour, sulfur dioxide gas was bubbled over the surface of the reaction and the temperature was allowed to gradually rise to room temperature. Dilution with diethyl ether (150 ml) caused the lithium sulfinate intermediate to precipitate. This precipitate (15 g) was collected by filtration and dissolved in water (80 ml). After addition of sodium acetate trihydrate (21.6 g, 0.26 mol) and hydroxylamine-O-sulfonic acid (10.4 g, 0.088 mol), mixture was stirred for 18 hours as the product slowly precipitated. The precipitated crude product was collected by filtration, dissolved in ethyl acetate/methanol. This solution was dried over anhydrous sodium sulfate, filtered through a pad of charcoal and evaporated to give pure crystalline product (5.25 g, 56% yield). Recrystallization of this material from ethyl acetate gave product with m.p. 192°-194° C.

reactant | 4-chloro-furo[3,2-c]pyridine | 40.2 mmol, 6.17 g | ClC1=NC=CC2=C1C=CO2 | C7H4ClNO
reactant | lithium diisopropylamide | 0.7M | C(C)(C)[N-]C(C)C.[Li+]
reactant | sodium acetate trihydrate | 0.26 mol, 21.6 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 0.088 mol, 10.4 g | NOS(=O)(=O)O | H3NO4S
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | THF | 44.8 mmol, 64 ml | C1CCOC1 | C4H8O
product | 2-Sulfamoyl-4-chloro-furo[3,2-c]pyridine | 5.25 g, 56% yield | S(N)(=O)(=O)C1=CC=2C(=NC=CC2O1)Cl | C7H5ClN2O3S
